US07732473B2
Description 1. 3-isobutyl-tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione
To a solution of DL-leucinamide hydrochloride (1.5 g, 9 mmol) in water (40 ml), adjusted to pH 9.5 with 10% sodium hydroxide, ethyl-4-oxobutanoate (1 g, 7.5 mmol) was added. The mixture was placed in a microwave oven and refluxed for 1 hour. Water was then evaporated under vacuum and the residue was chromatographated over silica gel (CH2Cl2/MeOH/NH4OH 98/2/0.1) to afford 1.1 g of the title compound.

reactant | DL-leucinamide hydrochloride | 9 mmol, 1.5 g | Cl.NC(CC(C)C)C(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl-4-oxobutanoate | 7.5 mmol, 1 g | C(C)OC(CCC=O)=O | C6H10O3
solvent | water | 40 ml | O | H2O
product | 3-isobutyl-tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione | 1.1 g | C(C(C)C)C1C(NC2N1C(CC2)=O)=O | C10H16N2O2
